US05567413
b) N-(2',3'-Dihydroxypropyl)-10,12-tricosadiynamide
Methyl 10,12-tricosadiynoate (1.69 g, 4.67 mmol) was dissolved in methanol. 3-Amino-1,2-propanediol (0.509 g, 5.6 mmol) and sodium methoxide 2.5% solution in methanol (0.146 g, 3 mol %) was added. The mixture was refluxed for 3 hours and the solvent evaporated. The crude product was recrystallized from chloroform. Yield: 1.00 g (51%). 1H NMR (60 MHz, CDCl3): δ 0.7-1.0 (m, 3H, CH3CH2), 1.3 (s, br, 28H, CH2), 2.0-2.4 (m, 6H, CH2), 3.3-3.8 (m, 5H, 2×CH2 +CH (propanediol)), 6.0-6.3 (m, 1H, NH).

reactant | Methyl 10,12-tricosadiynoate | 4.67 mmol, 1.69 g | C(CCCCCCCCC#CC#CCCCCCCCCCC)(=O)OC | C24H40O2
reactant | 3-Amino-1,2-propanediol | 5.6 mmol, 0.509 g | NCC(CO)O | C3H9NO2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 0.146 g | CO | CH4O
product | N-(2',3'-Dihydroxypropyl)-10,12-tricosadiynamide | OC(CNC(CCCCCCCCC#CC#CCCCCCCCCCC)=O)CO | C26H45NO3
